US08633189B2
Ethyl 5-(5-methyl-2-nitro-phenyl)-1,2,4-oxadiazole-3-carboxylate (60 mg, 0.22 mmol) was dissolved in ethanol (3 mL) and treated with lithium borohydride (9 mg, 0.43 mmol) at room temperature. The mixture was stirred for 1 h, then quenched with saturated NH4Cl and extracted into dichloromethane. The organic layer was washed with brine, dried over Na2SO4, filtered and concentrated in vacuo to provide (5-(5-methyl-2-nitrophenyl)-1,2,4-oxadiazol-3-yl)methanol (35 mg, 69% yield). LC/MS m/z 236.0 [M+H]+.

reactant | Ethyl 5-(5-methyl-2-nitro-phenyl)-1,2,4-oxadiazole-3-carboxylate | 0.22 mmol, 60 mg | CC=1C=CC(=C(C1)C1=NC(=NO1)C(=O)OCC)[N+](=O)[O-] | C12H11N3O5
reactant | lithium borohydride | 0.43 mmol, 9 mg | [BH4-].[Li+]
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | (5-(5-methyl-2-nitrophenyl)-1,2,4-oxadiazol-3-yl)methanol | 35 mg, 69% yield | CC=1C=CC(=C(C1)C1=NC(=NO1)CO)[N+](=O)[O-] | C10H9N3O4
